US09238640B2
Preparation of 2-(4-(2-(Isoindolin-2-yl)ethoxy)-3,5-dimethylphenyl)-5,7-dimethoxyquinazolin-4(3H)-one
To a suspension of 2-[4-(2-bromoethoxy)-3,5-dimethylphenyl]-5,7-dimethoxy-3H-quinazolin-4-one (0.50 g, 1.15 mmol) in anhydrous DMF (9 mL) was added isoindoline (0.41 mL, 3.46 mmol) and the reaction mixture was stirred at room temperature for 16 hours under nitrogen. The solvent was removed under reduced pressure and the residue was triturated with water (50 mL). The separated solid was filtered, washed with water and ether, and dried under vacuum to give the title compound as a white solid. Yield: 0.45 g (83%). MP 202-202.5° C. 1H NMR (400 MHz, CDCl3): δ 10.09 (br s, 1H), 7.77 (s, 2H), 7.22 (br s, 4H), 6.83 (d, J=2.4 Hz, 1H), 6.46 (d, J=2.4 Hz, 1H), 4.11 (s, 4H), 4.03 (t, J=6.0 Hz, 2H), 3.96 (s, 3H), 3.93 (s, 3H), 3.22 (t, J=6.0 Hz, 2H), 2.42 (s, 6H).

reactant | 2-[4-(2-bromoethoxy)-3,5-dimethylphenyl]-5,7-dimethoxy-3H-quinazolin-4-one | 1.15 mmol, 0.50 g | BrCCOC1=C(C=C(C=C1C)C1=NC2=CC(=CC(=C2C(N1)=O)OC)OC)C | C20H21BrN2O4
reactant | isoindoline | 3.46 mmol, 0.41 mL | C1NCC2=CC=CC=C12 | C8H9N
solvent | DMF | 9 mL | CN(C)C=O | C3H7NO
product | 2-(4-(2-(Isoindolin-2-yl)ethoxy)-3,5-dimethylphenyl)-5,7-dimethoxyquinazolin-4(3H)-one | C1N(CC2=CC=CC=C12)CCOC1=C(C=C(C=C1C)C1=NC2=CC(=CC(=C2C(N1)=O)OC)OC)C | C28H29N3O4
